US07273868B2
To a mixture of 4,6-dichloro-5-carboxy-2-methylthiopyrimidine (prepared in the above (1)) 500 mg and triethylamine 0.58 ml in dimethylformamide 3 ml is added 3-chloro-4-methoxybenzylamine 359 mg in dimethylformamide 3 ml at room temperature over a period of 15 minutes, and the mixture is stirred for 4 hour. The reaction mixture is diluted with a 10% aqueous citric acid solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-(3-chloro-4-methoxybenzylamino)-5-carboxy-6-chloro-2-methylthiopyrimidine as a slightly brown powder.

reactant | 4,6-dichloro-5-carboxy-2-methylthiopyrimidine | ClC1=NC(=NC(=C1C(=O)O)Cl)SC | C6H4Cl2N2O2S
reactant | triethylamine | 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-4-methoxybenzylamine | 359 mg | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-(3-chloro-4-methoxybenzylamino)-5-carboxy-6-chloro-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)O)Cl)SC)C=CC1OC | C14H13Cl2N3O3S
